US07132421B2
Aluminum chloride (4.979 g, 37.34 mmol) was added in small portions to a solution of 3-cyclopentylpropionyl chloride (3 g, 18.67 mmol) in 1,2-dichloroethane (100 mL) cooled to 0° C. After 15 min., chlorobenzene (6.304 g, 56.01 mmol) was added. The reaction mixture was stirred at 0° C. for 1 h and at room temperature for 48 h. It was then poured into a mixture of ice and water. The product was extracted with ethyl acetate. The organic layers were washed with saturated solution of sodium bicarbonate (1×30 mL), brine (1×20 mL) and dried over anhydrous magnesium sulfate. The solids were then filtered off, and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32–63 μm, 60 Å silica gel) eluting with hexanes yielded 1-(4-chloro-phenyl)-3-cyclopentyl-propan-1-one (1.12 g, 25%) as yellow oil.

reactant | Aluminum chloride | 37.34 mmol, 4.979 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-cyclopentylpropionyl chloride | 18.67 mmol, 3 g | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | chlorobenzene | 56.01 mmol, 6.304 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | 1-(4-chloro-phenyl)-3-cyclopentyl-propan-1-one | 1.12 g, 25% | ClC1=CC=C(C=C1)C(CCC1CCCC1)=O | C14H17ClO
